US04576749
(A) N-Acetyl-N'-[2-(phenylmethoxy)-2-oxoethyl]ethylenediamine
Benzyl glyoxylate (3.28 g, 20.0 mmol) in dry tetrahydrofuran (15 ml) was added dropwise in monoacetylethylenediamine (1.53 g, 15 mmol) in dry tetrahydrofuran (60 ml) at room temperature. After 2 hours, the tetrahydrofuran was removed under vacuum, and the residue was dissolved in dry methanol (100 ml). Upon cooling to 0° C., 1.55 g of sodium cyanoborohydride was added, immediately followed by dropwise addition of 1.54 ml of acetic acid. The reaction was allowed to warm to room temperature and stirred for 40 minutes. The volatiles were removed under vacuum, and the residue was extracted from aqueous sodium bicarbonate with ethyl acetate. The combined organic layers were dried with sodium sulfate, and the volatiles were removed. The residue was purified by column chromatography on silica (LPS-1) (loading with 2% methanol/dichloromethane and eluting with 5% methanol/dichloromethane to yield 1.46 g of the title compound.

reactant | Benzyl glyoxylate | 20.0 mmol, 3.28 g | C(C=O)(=O)OCC1=CC=CC=C1 | C9H8O3
reactant | monoacetylethylenediamine | 15 mmol, 1.53 g | C(C)(=O)NCCN | C4H10N2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-Acetyl-N'-[2-(phenylmethoxy)-2-oxoethyl]ethylenediamine | 1.46 g | C(C)(=O)NCCNCC(=O)OCC1=CC=CC=C1 | C13H18N2O3
